2101-01-16 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2101-1-16**] 04:31 AM
   No acute events since admission
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-1-16**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 77 (74 - 88) bpm
   BP: 114/58(71) {114/53(70) - 133/63(76)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 81 kg (admission): 81 kg
           Total In:
           2,342 mL
   PO:
           TF:
   IVF:
   42 mL
   Blood products:
   350 mL
   Total out:
                                                                      0 mL
                                                                    250 mL
   Urine:
   250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,092 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General: Alert, oriented to person only, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear, tongue w/ 3 mm blueish
   papule
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: irreg irreg, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   134 mg/dL
   1.2 mg/dL
   23 mEq/L
   4.1 mEq/L
   63 mg/dL
   112 mEq/L
   143 mEq/L
   28.5 %
        [image002.jpg]
                             [**2101-1-16**]  05:14 AM
   Hct
   28.5
   Cr
   1.2
   TropT
   0.01
   Glucose
   134
   Other labs: CK / CKMB / Troponin-T:24//0.01, Lactic Acid:3.4 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR: No acute process
   Microbiology: BCx, UCx pending
   Assessment and Plan
   An 85 year old gentleman with a history of DVT on PPX lovenox, Afib s/p
   pacemaker and dementia presenting with melena and a hct drop but now
   hemodynamically stable.
   # GI bleed/ Acute blood-loss anemia: ? from upper gi source given brown
   fluid on NG lavage.  Could also be from a lower GI source.  Is on
   lovenox for DVT prophylaxis which is not reflected in his coags.  Has
   received 2 U PRBC in the ED.  Baseline hct in [**11-29**] was 35 so somewhat
   anemic at baseline.  Normocytic.
   - q 4 hct until stabilizes
   - IV PPI [**Hospital1 7**]
   - hold lovenox
   - T & S w/ crossmatch 4 U
   - GI to scope on Monday unless HD unstable and bleed does not stop
   - tele
   # Leukocytosis: Likely from GI bleed.  There is a possible LLL opacity
   for which he received zosyn.  No fever.
   - f/u blood and urine cx
   - hold on further antibiotics for now pending sx of infection
   # Acute renal failure: Unknown baseline but per son no h/o renal
   disease. Likley somewhat pre-renal given GI bleed.
   - treat GI bleed as above
   - urine lytes
   - trend for now
   # Chronic diastolic heart failure: EF > 55% on last ECHO by report w/
   Mild MR, Mild TR, mod/severe pulm HTN, LAE.  Has chronic LE swelling.
   - pneumoboots
   # Dementia: Baseline oriented to self and needs help w/ ADLs.
   - continue aricept
   # Orthostatic hypotension: continue midodrine
   # H/o DVT: On lovenox at prophylactic doses.  Will hold in setting of
   GI bleed.
   - pneumoboots
   # H/o possible sinus nodal dysfunction w/ dual-chamber pacemaker.
   Currently in sinus w/ HR in 90s.
   # BPH: continue finasteride, hold tamsulosin in the setting of GI bleed
   # FEN: No IVF, replete electrolytes prn, clears for now
   # Prophylaxis: Pneumoboots, fall precautions, IV PPI [**Hospital1 7**]
   # Access: peripherals: 18G X 2
   # Code: full (per NH records)
   # Communication: Patient, Dr. [**First Name4 (NamePattern1) 1412**] [**Known lastname 5311**] (ED Doctor), serves as HCP
   H: ([**Telephone/Fax (1) 5314**]; C: ([**Telephone/Fax (1) 5313**].
   # Disposition: ICU pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-1-16**] 03:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: